US04194047
Preparation of Ethyl N-Benzylformimidate
A solution of 690 mg (5.1 mmoles) of N-benzylformamide in 5 ml of methylene chloride is cooled in an ice-water bath and put under an argon blanket. The solution is stirred while 4.9 ml (4.9 mmoles) of 1 M triethyloxonium fluoroborate in methylene chloride is added dropwise. After a 45 minute reaction time, the mixture is concentrated to dryness under reduced pressure at room temperature, and the residue is dried under reduced pressure over P2O5. The nuclear magnetic resonance spectrum of the product in deuterochloroform is fully in accord with the product being a fluoroborate etherate complex of ethyl N-benzylformimidate.

reactant | N-benzylformamide | 5.1 mmoles, 690 mg | C(C1=CC=CC=C1)NC=O | C8H9NO
reactant | triethyloxonium fluoroborate | 4.9 mmoles, 1 M, 4.9 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-Benzylformimidate | C(C1=CC=CC=C1)N=COCC | C10H13NO
